US06495557B1
methyl 5-(4-benzylaminobenzothieno[2,3-d]pyrimidin-2-yl)valerate.
methyl 4-[4-(3-chloro-4-methoxybenzylamino)benzothieno[2,3-d]pyrimidin-2-yl]cyclohexanecarboxylate and by reaction of 3,4-methylenedioxybenzylamine gives

reactant | methyl 4-[4-(3-chloro-4-methoxybenzylamino)benzothieno[2,3-d]pyrimidin-2-yl]cyclohexanecarboxylate | ClC=1C=C(CNC=2C3=C(N=C(N2)C2CCC(CC2)C(=O)OC)SC2=C3C=CC=C2)C=CC1OC | C26H26ClN3O3S
reactant | 3,4-methylenedioxybenzylamine | C1OC=2C=C(CN)C=CC2O1 | C8H9NO2
product | methyl 5-(4-benzylaminobenzothieno[2,3-d]pyrimidin-2-yl)valerate | C(C1=CC=CC=C1)NC=1C2=C(N=C(N1)CCCCC(=O)OC)SC1=C2C=CC=C1 | C23H23N3O2S
